US08071565B2
Intermediate CJ (2R,3R,4S,5R)-2-[6-((S)-1-Benzyl-2-hydroxyethylamino)-2-chloro-purin-9-yl]-5-(2-benzyl-2H-tetrazol-5-yl)-tetrahydro-furan-3,4-diol
The title compound is prepared in an analogous fashion to (2R,3S,4R,5R)-2-(2-benzyl-2H-tetrazol-5-yl)-5-[2-chloro-6-(2,2-diphenylethylamino)-purin-9-yl]-tetrahydro-furan-3,4-diol (WO 99/38877) by replacing 2,2-diphenylethylamine with (S)-2-amino-3-phenyl-propan-1-ol

reactant | (2R,3S,4R,5R)-2-(2-benzyl-2H-tetrazol-5-yl)-5-[2-chloro-6-(2,2-diphenylethylamino)-purin-9-yl]-tetrahydro-furan-3,4-diol | C(C1=CC=CC=C1)N1N=C(N=N1)[C@H]1O[C@H]([C@@H]([C@@H]1O)O)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)Cl | C31H28ClN9O3
reactant | (S)-2-amino-3-phenyl-propan-1-ol | N[C@H](CO)CC1=CC=CC=C1 | C9H13NO
product | (2R,3R,4S,5R)-2-[6-((S)-1-Benzyl-2-hydroxyethylamino)-2-chloro-purin-9-yl]-5-(2-benzyl-2H-tetrazol-5-yl)-tetrahydro-furan-3,4-diol | C(C1=CC=CC=C1)[C@@H](CO)NC1=C2N=CN(C2=NC(=N1)Cl)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)C=1N=NN(N1)CC1=CC=CC=C1 | C26H26ClN9O4
